Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine / Aspirin / Methocarbamol / Meperidine / Hydrocodone
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with PMH of CHF, AAA, and chronic back pain presenting from 
Rehab with confusion and disorientation, found to have a T=101, 
SaO2=88%. She was sent to the emergency room for further 
evaluation. In the emergency room she was somnolent, but 
arousable, and was confused and disoriented. She was transiently 
hypotensive and received ___ of IVF. CXR was consistent with 
pneumonia and she was given Vancomycin, Levofloxacin, and Zosyn. 
She was then transferred to the MICU for further management.
 
Past Medical History:
CHF: EF unknown
AAA
Back Pain
GERD
Depression
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
T=95.7  HR=71  BP=99/39  RR=22   SpO2=92%
General: NAD
HEENT: Anicteric
CV: RR, ___ systolic murmur
Pulm: crackles on R>L, dullness at L base
Abd: soft, NTND, positive bowel sounds
Ext: no edema

 
Pertinent Results:
___ 06:06PM   TYPE-ART RATES-/28 PO2-98 PCO2-53* PH-7.32* 
TOTAL CO2-29 BASE XS-0 INTUBATED-NOT INTUBA
___ 02:07PM   LACTATE-1.2
___ 01:58PM   GLUCOSE-106* UREA N-22* CREAT-1.4* SODIUM-142 
POTASSIUM-3.9 CHLORIDE-105 TOTAL CO2-28 ANION GAP-13
___ 01:58PM   ALT(SGPT)-14 AST(SGOT)-22 ALK PHOS-179* TOT 
BILI-0.6
___ 01:58PM   LIPASE-11
___ 01:58PM   proBNP-___*
___ 01:58PM   WBC-19.4*# RBC-3.26*# HGB-8.8*# HCT-28.9*# 
MCV-89 MCH-26.9* MCHC-30.4* RDW-16.5*
___ 01:58PM   ___ PTT-27.8 ___

___ 07:10PM 
WBC RBC Hgb Hct MCV MCH MCHC RDW Plt Ct
6.8 3.55* 9.6* 30.4* 86 27.0 31.6 17.3* 443*

Glucose UreaN Creat Na K Cl HCO3 AnGap
112* 14 1.2* 142 3.6 104 31 11

___ 15:27 ECHO

The left atrium is elongated. No atrial septal defect is seen by 
2D or color Doppler. The right atrial pressure is indeterminate. 
There is mild symmetric left ventricular hypertrophy with normal 
cavity size and regional/global systolic function (LVEF>55%). 
There is no ventricular septal defect. Right ventricular chamber 
size and free wall motion are normal. The diameters of aorta at 
the sinus, ascending and arch levels are normal. The aortic 
valve leaflets (3) are mildly thickened. There is mild aortic 
valve stenosis (valve area 1.2-1.9cm2). No aortic regurgitation 
is seen. The mitral valve leaflets are mildly thickened. There 
is no mitral valve prolapse. Trivial mitral regurgitation is 
seen. The tricuspid valve leaflets are mildly thickened. There 
is moderate pulmonary artery systolic hypertension. There is a 
trivial/physiologic pericardial effusion.  

___ CXR
In comparison with the study of ___, there is again 
enlargement
of the cardiac silhouette with evidence of some pulmonary 
vascular congestion. Areas of increased opacification are seen 
at both bases with apparent silhouetting the hemidiaphragm. This 
most likely represents combination of atelectasis and effusion, 
though superimposed pneumonia be definitely excluded.
 
Brief Hospital Course:
___ with PMH of CHF, depression, AAA, GERD presenting with 
altered mental status and hypotension, found to have sepsis 
likely due to a multi-lobar pneumonia admitted to the ICU for 
two days and transferred to medical floor on ___. She did 
not require tracheal intubation in the ICU.

1. Pneumonia: Urine legionella negative, blood cultures (NGTD 
from ___, viral culture negative. Patient improved on 
Vanc/Zosyn with steady improvement in her oxygen saturation to 
normal on RA at the time of discharge. She received an 8day 
course of antibiotics, then they were discontinued.  Oxygen was 
given and eventually weaned off.  Asnoted above, she did not 
require tracheal intubation in the ICU.

2. Dyspnea: Likely multifactorial due to pneumonia, and a 
component of diastolic congestive heart failure with volume 
resuscitation in the ER. Initial BNP elevated, and blood 
tests/EKG did not reveal suggestive myocardial injury. Patient 
responded well to intermittent doses of Lasix 10mg IV. 

3. Hypertension: Pt had episodes of hypotension at presentation; 
on the general medicine floor she remained intermitently 
hypertensive to SBP=180 despite Labetalol 200mg BID, which is 
her home regiment. Elevated values tended to be right before 
next dose of medicine is given; otherwise relatively 
well-controlled.  on discharge =150s/70s

4. Chronic diastolic CHF: TTE obtained this hospitalization 
showed EF>55%, no echocardiographic evidence of diastolic 
dysfunction, only mild LVH on TTE. She was continued on 
Labetalol as above for BP and rate control.

5. Anemia: Hct improved slowly to 31 at the time of discharge, 
MCV=89, baseline unknown. Given MCV, likely due to anemia of 
chronic disease, eval studies were consistent with this.

6. Lumbar disc disease - s/p lumbar surgery.  Back pain was 
slightly worse in hospital and so her Oxycontin to increased to 
40mg BID on ___ with good effect.  Not requireing breakthrough 
pain.  Valium was decreased to 2mg BID, and she's being 
discharged on 2mg once daily prn anxiety. She has not displayed 
high levels of anxiety, though the valium had been given to her 
prior to hospitalization more to help any spasm component of her 
back pain. 

 
 
Medications on Admission:
Lidoderm patch
Levothyroxine 25mcg po qday
prilosec 20mg po qday
cymbalta 60mg po qday
colace 100mg po bid
labetalol 200mg po bid
xoycontin 30mg po bid
senna 1 tablet po bid
diazepam 5mg po q6h prn anxiety
oxycodone 10mg po q6 prn pain
mvi daily
lyrica 50mg po qday
robitussin prn
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain, fever.  
2. Levothyroxine 25 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. Oxycodone 40 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO Q12H (every 12 hours) as 
needed for chronic back pain.  
6. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
7. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1) dose 
Injection TID (3 times a day).  
8. Ipratropium Bromide 0.02 % Solution Sig: One (1) neb 
Inhalation Q6H (every 6 hours) as needed for shortness of breath 
or wheezing.  
9. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) neb Inhalation Q6H (every 6 hours) as 
needed for wheeze, shortness of breath.  
10. Diazepam 2 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for anxiety.  
11. Labetalol 200 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Pneumonia
Congestive Heart Failure (diastolic)
Low Back Pain

 
Discharge Condition:
Improved

 
Discharge Instructions:
You were admitted with pneumonia and sepsis and treated for this 
in the ICU and hospital floor with antibiotics and have 
completed this course.  You had an ultrasound of the heart which 
was normal. Your back pain medication was adjusted for increased 
pain.  If you have fever, cough, shortness of breath, chest pain 
or worsening back pain, please have this evaluated by your 
doctor.
 
Followup Instructions:
___